US09278922B2
4-fluoro-N,N-bis(4-methoxy-3-nitrobenzyl)aniline
4-Fluoroaniline and 4-methoxy-3-nitrobenzyl bromide were processed using the method described in Example 1A to provide 2.33 g (91%) of the title compound. MS (ESI; M+H) m/z=442.

reactant | 4-Fluoroaniline | FC1=CC=C(N)C=C1 | C6H6FN
reactant | 4-methoxy-3-nitrobenzyl bromide | COC1=C(C=C(CBr)C=C1)[N+](=O)[O-] | C8H8BrNO3
product | 4-fluoro-N,N-bis(4-methoxy-3-nitrobenzyl)aniline | 2.33 g, 91% | FC1=CC=C(N(CC2=CC(=C(C=C2)OC)[N+](=O)[O-])CC2=CC(=C(C=C2)OC)[N+](=O)[O-])C=C1 | C22H20FN3O6
